US07579469B2
To a solution of 0.1 g (0.35 mmol) of 4-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]benzo[1,3]dioxole in 5 mL of THF was added 0.06 g (0.35 mmol) of N-bromosuccinimide. The reaction was monitored by TLC. After stirring overnight, TLC showed starting material and a new slightly more polar spot. The reaction was concentrated in vacuo and the residue was diluted with hexanes. The resulting suspension was filtered to remove insoluble material and the filtrate was purified by chromatography over silica gel eluting with ethyl acetate-hexanes (0-10%) to afford an oil as a mixture of starting material and product (3.5:1) by proton NMR. The residue was dissolved in 3 mL of acetonitrile and 0.06 g (0.35 mmol) of N-bromosuccinimide was added. After 3 hours, a TLC indicated the reaction was complete and it was worked up as above to afford 0.07 g (54%) of 6-bromo-4-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]benzo[1,3]dioxole as a yellow oil.

reactant | 4-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]benzo[1,3]dioxole | 0.35 mmol, 0.1 g | CC(CC1(OC1)C(F)(F)F)(C)C1=CC=CC=2OCOC21 | C14H15F3O3
reactant | N-bromosuccinimide | 0.35 mmol, 0.06 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 0.35 mmol, 0.06 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 6-bromo-4-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]benzo[1,3]dioxole | 0.07 g, 54% | BrC=1C=C(C2=C(OCO2)C1)C(CC1(OC1)C(F)(F)F)(C)C | C14H14BrF3O3
